US05889009
6,8-Difluoro-1-(indan-1-yl)-7-(piperazin-1-yl) 1,4-dihydro-4-oxoquinoline-3-carboxylic acid (compound No. 46)
Using 1-(indan-1-yl)-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid and piperazine, the same procedure as in Production Example 1 was followed to yield the title compound.

reactant | 1-(indan-1-yl)-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | C1(CCC2=CC=CC=C12)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C19H12F3NO3
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 6,8-Difluoro-1-(indan-1-yl)-7-(piperazin-1-yl) 1,4-dihydro-4-oxoquinoline-3-carboxylic acid | FC=1C=C2C(C(=CN(C2=C(C1N1CCNCC1)F)C1CCC2=CC=CC=C12)C(=O)O)=O | C23H21F2N3O3
